US07763657B2
4-Methanesulfonylamino-3-vinylbenzylamine and HCl salt (131 mg, 0.499 mmol) were reacted with 2,3-diphenyl-acrylic acid (115 mg, 0.512 mmol) prepared by the reported procedure to give N-(4-methanesulfonylamino-3-vinyl-benzyl)-2,3-diphenyl-propionamide (146 mg, 68%).

reactant | 4-Methanesulfonylamino-3-vinylbenzylamine | CS(=O)(=O)NC1=C(C=C(CN)C=C1)C=C | C10H14N2O2S
reactant | HCl | 0.499 mmol, 131 mg | Cl | ClH
reactant | 2,3-diphenyl-acrylic acid | 0.512 mmol, 115 mg | C1(=CC=CC=C1)C(C(=O)O)=CC1=CC=CC=C1 | C15H12O2
product | N-(4-methanesulfonylamino-3-vinyl-benzyl)-2,3-diphenyl-propionamide | 146 mg, 68% | CS(=O)(=O)NC1=C(C=C(CNC(C(CC2=CC=CC=C2)C2=CC=CC=C2)=O)C=C1)C=C | C25H26N2O3S
